US06610269B1
a) 4-Methyl-isophthalic Acid (2)
To THF (130 ml) solution of 3-bromo-4-methyl-benzoic acid (5.0 g, 23.25 mmol) under nitrogen and cooled to −78° C. (dryice/methanol) was added MeMgBr in ether (3.0 M, 8.5 ml, 25.57 mmol) at such a rate that the temperature did not exceed −75° C. The temperature was then allowed to rise to −60° C. and after gas evolution had ceased, the solution was cooled again to −78° C. BuLi in hexane (1.6 M, 29.06 ml, 46.50 mmol) was then added dropwise such that the temperature did not rise above −75° C. The mixture was then stirred at this temperature for 15 minutes before crushed dryice (4.4 g, 100 mmol) was added. The precipitate was vigorously stirred as the temperature was allowed to freely rise to ambient temperature. The mixture was made acidic using 6 N HCl and the solid material collected filteration, washed with diethyl ether and dried. Recrystallisation from water afforded off-white pure compound (81%) m.p. 296-298° C. (sublimed). NMR conforms to expected structure.

reactant | 3-bromo-4-methyl-benzoic acid | 23.25 mmol, 5.0 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | MeMgBr | C[Mg+].[Br-]
reactant | ether | 25.57 mmol, 3.0 M, 8.5 ml | CCOCC | C4H10O
reactant | BuLi | [Li]CCCC
reactant | hexane | 46.50 mmol, 1.6 M, 29.06 ml | CCCCCC | C6H14
reactant | HCl | 6 N | Cl | ClH
reactant | methanol | CO | CH4O
solvent | THF | 130 ml | C1CCOC1 | C4H8O
product | 4-Methyl-isophthalic Acid | CC1=C(C=C(C(=O)O)C=C1)C(=O)O | C9H8O4
